US04386100
A mixture of 3-benzyloxycarbonyl-1-ethoxycarbonyl-1'-(3,4-dichlorobenzyl)spiro[imidazolidine-4,3'-indoline]-2,2',5-trione (1.7 g.), 10% w/w palladium on carbon (0.1 g.), acetic acid (0.3 ml.), ethanol (25 ml.) and 1,2-dimethoxyethane (50 ml.) was hydrogenated at atmospheric pressure for 2 hours. The mixture was separated by filtration through diatomaceous earth and the filtrate was evaporated. The residual oil solidified on treatment with a few drops of toluene. The solid obtained was recrystallised from ethyl acetate/petrol 60-80 to give 1-ethoxycarbonyl-1'-(3,4-dichlorobenzyl)-spiro[imidazolidine-4,3'-indoline]-2,2',5-trione (0.7 g.), 176°-179° C.

reactant | 3-benzyloxycarbonyl-1-ethoxycarbonyl-1'-(3,4-dichlorobenzyl)spiro[imidazolidine-4,3'-indoline]-2,2',5-trione | 1.7 g | C(C1=CC=CC=C1)OC(=O)N1C(N(C(C12C(N(C1=CC=CC=C21)CC2=CC(=C(C=C2)Cl)Cl)=O)=O)C(=O)OCC)=O | C28H21Cl2N3O7
reactant | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
reactant | ethanol | 25 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.1 g | [Pd] | Pd
solvent | 1,2-dimethoxyethane | 50 ml | COCCOC | C4H10O2
product | 1-ethoxycarbonyl-1'-(3,4-dichlorobenzyl)-spiro[imidazolidine-4,3'-indoline]-2,2',5-trione | 0.7 g | C(C)OC(=O)N1C(NC2(C(N(C3=CC=CC=C23)CC2=CC(=C(C=C2)Cl)Cl)=O)C1=O)=O | C20H15Cl2N3O5
